US06384041B1
To a solution of 256 mg (0.582 mmol) of [[2-(methylthio)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 9 mL of chloroform was added 0.15 mL of oxalyl chloride followed by 0.07 mL of pyridine. The reaction stirred at ambient temperature and was monitored by nmr for conversion to product. Additional oxalyl chloride (0.200 mL) was added in portions over 3 days. The reaction was quenched into 4.0 mL of dilute ammonium hydroxide and the product was extracted into 4.0 mL of methylene chloride. The organic phase was washed with water, dried with sodium sulfate and concentrated to 420 mg of yellow solid. The residue was purified by flash chromatography (42 g of silica, ethyl acetate) to provide 66 mg (22%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]-methyl]-7H-pyrrolo(2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (300 MHz, dmso-d6) δ1.00 (t, 3H), 2.34 (s, 3H), 2.81 (q, 2H), 3.65 (s, 3H), 4.97 (s, 2H), 5.62 (s, 2H), 6.47 (d, 1H), 7.53 (m, 2H), 7.65 (s, 1H), 7.83 (d, 1H) , 8.06 (s, 1H)

reactant | [[2-(methylthio)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.582 mmol, 256 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC(=CC=C2)C(F)(F)F)=O | C20H20F3N3O3S
reactant | oxalyl chloride | 0.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.07 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.200 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]-methyl]-7H-pyrrolo(2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 66 mg, 22% | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=CC(=CC=C2)C(F)(F)F)=O | C22H21F3N4O5S
